US07943622B2
Step 2. Synthesis of tert-butyl 3-(pyridin-3-ylcarbamoyl)piperazine-1-carboxylate
tert-Butyl 1,3-dioxotetrahydro-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate (1.50 g, 5.85 mmol) and 3-aminopyridine (1.10 g, 11.7 mmol) were heated to reflux in THF (20 mL). After 4 h, the reaction mixture was cooled to rt, diluted with H2O (50 mL), and was extracted with EtOAc (3×75 mL). The combined extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by column chromatography (0 to 8% MeOH in CH2Cl2 with 0.5% NH4OH gradient), yielding 0.740 g (44%) of the title compound. LC-MS: RT=4.14 min, [M+H]+=307.1.

reactant | tert-Butyl 1,3-dioxotetrahydro-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate | 5.85 mmol, 1.50 g | O=C1OC(N2C1CN(CC2)C(=O)OC(C)(C)C)=O | C11H16N2O5
reactant | 3-aminopyridine | 11.7 mmol, 1.10 g | NC=1C=NC=CC1 | C5H6N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | tert-butyl 3-(pyridin-3-ylcarbamoyl)piperazine-1-carboxylate | 0.740 g, 44% | N1=CC(=CC=C1)NC(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C15H22N4O3
